US05171860
3-Ethoxy-4-bromo-5-carboxyisothiazole
3-Ethoxy-4-bromo-5-carbamoylisothiazole (2.51 g, 0.01 mol) was dissolved in 20 ml of trifluoroacetic acid and the solution cooled to 0° to 5° C. Sodium nitrite (2.76 o, 0.04 mol) was added in small portions to the stirred solution over a five minute period. Stirring was continued for 10 minutes at the same temperature and the reaction mixture poured into 150 ml of ice water. The title compound separated as a white solid (2.2 g, 88%, mp 151°-152.5° C.) and was filtered, washed with ice water and dried.

reactant | 3-Ethoxy-4-bromo-5-carbamoylisothiazole | 0.01 mol, 2.51 g | C(C)OC1=NSC(=C1Br)C(N)=O | C6H7BrN2O2S
reactant | Sodium nitrite | 0.04 mol | N(=O)[O-].[Na+]
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Ethoxy-4-bromo-5-carboxyisothiazole | C(C)OC1=NSC(=C1Br)C(=O)O | C6H6BrNO3S
